US07847101B2
Preparation 2: Synthesis of Thiazolo[5,4-b]pyridin-2-ylamine
A suspension of 2-chloro-3-aminopyridine (3 g, 23 mmole), and ammonium thiocyanate (3.5 g, 46.5 mmole) in 23 mL of ethanol was acidified with conc. HCl to pH ˜1 (˜1.8 mL). The reaction mixture was heated to 85° C. for 3 days. At this point, the solvent was evaporated and residual water was removed aziotropically by the distillation of 2-propanol. The yellow residue was mixed with 12 mL of 7 M ammonium hydroxide and 7 mL of chloroform. The solid was isolated by filtration to yield 1.50 g (43%) of the product as a white powder. MS (m/z, ES+): 152 (M+1, 100%).

reactant | 2-chloro-3-aminopyridine | 23 mmole, 3 g | ClC1=NC=CC=C1N | C5H5ClN2
reactant | ammonium thiocyanate | 46.5 mmole, 3.5 g | [S-]C#N.[NH4+]
reactant | HCl | Cl | ClH
solvent | ethanol | 23 mL | C(C)O | C2H6O
product | Thiazolo[5,4-b]pyridin-2-ylamine | 1.50 g, 43% | N1=C(SC2=NC=CC=C21)N | C6H5N3S
